US07335658B2
SYNTHESIS OF 6-CHLOROPYRIDAZINE-3-CARBOXYLIC ACID [2-(3-FLUOROPHENYL)ETHYL]AMIDE
To a solution of 6-chloropyridazine-3-carboxylic acid (0.31 g, 1.94 mmol) in dichloromethane (15.5 mL) was added diisopropylethylamine (0.73 mL, 4.19 mmol), followed by 1-hydroxybenzotriazole monohydrate (0.28 g, 2.1 mmol) and 1-(3-dimethylamino)propyl-3-ethylcarbodiimide (0.37 mL, 2.1 mmol). The resulting mixture was stirred for 15 minutes, followed by the addition of 3-fluorophenethylamine (0.28 mL, 2.1 mmol). After stirring for 27 hours at ambient temperature, the reaction mixture was diluted with dichloromethane (200 mL), washed with water (4×25 mL), dried over Na2SO4 and concentrated in vacuo. Purification by column chromatography eluted with dichloromethane: ethyl acetate (2:1) afforded the product as a white powder (0.205 g). 1H NMR (400 MHz, CDCl3) δ 8.26, 8.12, 7.67, 7.28-7.23, 6.95-6.89, 3.80-3.75, 2.95.

reactant | 6-chloropyridazine-3-carboxylic acid | 1.94 mmol, 0.31 g | ClC1=CC=C(N=N1)C(=O)O | C5H3ClN2O2
reactant | diisopropylethylamine | 4.19 mmol, 0.73 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-hydroxybenzotriazole monohydrate | 2.1 mmol, 0.28 g | O.ON1N=NC2=C1C=CC=C2
reactant | 3-fluorophenethylamine | 2.1 mmol, 0.28 mL | FC=1C=C(CCN)C=CC1 | C8H10FN
solvent | dichloromethane | 15.5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 6-CHLOROPYRIDAZINE-3-CARBOXYLIC ACID [2-(3-FLUOROPHENYL)ETHYL]AMIDE | 0.205 g | FC=1C=C(C=CC1)CCNC(=O)C=1N=NC(=CC1)Cl | C13H11ClFN3O
